US05965738
Synthesis of 2-[[5-ethyl-3-(4-iodobenzyl)-1,3,4-thiadiazolin-2-yliden]aminocarbonyl]-1-cyclopentene-carboxylic acid
To a solution of 5-ethyl-2-imino-3-(4-iodobenzyl)-1,3,4-thiadiazoline (17.3 g) in chloroform (200 ml) was added 1-cyclopentene-1,2-dicarboxylic anhydride (7.5 g), and they were stirred at room temperature for one hour. The reaction mixture was washed with 1N hydrochloric acid and dried over anhydrous magnesium sulfate, followed by removal through distillation. The residue so obtained was dispersed in diethyl ether and collected by filtration, whereby 23.8 g of the title compound was obtained.

reactant | 5-ethyl-2-imino-3-(4-iodobenzyl)-1,3,4-thiadiazoline | 17.3 g | C(C)C1=NN(C(S1)=N)CC1=CC=C(C=C1)I | C11H12IN3S
reactant | 1-cyclopentene-1,2-dicarboxylic anhydride | 7.5 g | C12=C(CCC1)C(=O)OC2=O | C7H6O3
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-[[5-ethyl-3-(4-iodobenzyl)-1,3,4-thiadiazolin-2-yliden]aminocarbonyl]-1-cyclopentene-carboxylic acid | 23.8 g | C(C)C1=NN(C(S1)=NC(=O)C1=C(CCC1)C(=O)O)CC1=CC=C(C=C1)I | C18H18IN3O3S
